Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
left forearm abscess  
 
Major Surgical or Invasive Procedure:
Incision and drainage of left forearm abscess

 
History of Present Illness:
Mr. ___ is a ___ year old male presenting with persistent
abscess and left forearm cellulitis tracking up proximal arm 
with
palpable lymph nodes.

He reports developing a small pustule on his left forearm 1.5
weeks ago. He attempted to pop the pimple without significant
improvement. Over the next 2 days he had worsening of his
swelling and pain. He was initially seen on ___ and
prescribed Keflex (___).  Then, he traveled to ___ and
over the next few days, his symptoms worsened, with worsening
pain, erythema, and swelling. He was seen in urgent care there 
on
___, and there was an attempt to I&D the area. Cultures were
also obtained, on ___ shown to speciate acaligenes faecalis. At
that time his antibiotics were changed to clindamycin and 
Bactrim
(___). This resulted in some improvement of the proximal
LUE, but he has had worsening erythema and developed a raised
left forearm lesion despite the two antibiotics. He was seen in
the ED on ___, and treated with an I+D of the new lesion with
purulent output. A bedside ultrasound showed a small fluid
collection distally and inflamed lymph nodes tracking up arm. 
His
case was discussed with ID and he was maintained on IV 
vancomycin
overnight (___).  Notably, the patient reported that 
his
symptoms improved after taking vancomycin.  However, he had
minimal improvement in his arm and the decision was made to 
admit
him for further IV antibiotics.  

Of note, the patient has had recent travel to ___ to visit
___.  He spent a brief time in the jungle, but did
not note any reported bug bites, contact with wild animals.  He
had a brief swim in a lake in ___. He reported feeling well
after his trip, denying any constitutional symptoms, joint pain,
abdominal pain, diarrhea, chest pain, shortness of breath.  The
patient denies any IV drug use, and has recently been tested for
HIV, negative, on PREP.  He is a ___, but has had no
injuries due to splinters.
 

In the ED:
 - Initial vital signs were notable for: T98.5 HR 84 BP 106/76 
RR
16 SPO2 97% RA  
 
 - Exam notable for:  
 Well-appearing, no acute distress.  
 Left forearm with incised abscess distally with new 
erythematous
raised lesion proximal to previous wound. Palpable lymph nodes
tracking up arm. Area of erythema previously marked improving on
proximal medial arm.  

 - Labs were notable for:  
 WBC 8.1  
 Lactate 1.1  
 BMP nl  

 - Studies performed include:  
 Incision and drainage with large amount of pus  

 - Patient was given:  
 ___ 01:39 IV Vancomycin 1000 mg  
 ___ 13:30 IV Vancomycin 1000 mg

 Upon arrival to the floor, the patient was well-appearing.  He
denied any fevers, chills, abdominal pain, chest pain, shortness
of breath, and he noted that the pain in his left upper 
extremity
was significantly reduced.  He was able to confirm the above
history.

 
Past Medical History:
 Torn left ACL and MCL s/p repair  

 
Social History:
___
Family History:
Mother and father with skin cancer, bladder cancer in father  

 
Physical Exam:
ADMISSION PHYSICAL EXAM:  
==============================
 VITALS: Afebrile, BP: 117/79, HR: 69, on: 18, 98% room air
 GENERAL: Alert and interactive. In no acute distress.  
 HEENT: NCAT. PERRL, EOMI. Sclera anicteric and without
injection. MMM.  
 NECK: No cervical lymphadenopathy. No JVD
 CARDIAC: Regular rhythm, normal rate. Audible S1 and S2. No
murmurs/rubs/gallops.  
 LUNGS: Clear to auscultation bilaterally. No wheezes, rhonchi 
or
rales. No increased work of breathing.  
 BACK: No spinous process tenderness. No CVA tenderness.  
 ABDOMEN: Normal bowels sounds, non distended, non-tender to 
deep
palpation in all four quadrants. No organomegaly.  
 EXTREMITIES: Left forearm with 2 incised abscesses, the more
proximal with packing in place, and significant surrounding
erythema and edema, minimal proximal streaking, compartments
soft, intact distal sensation motor and perfusion. No clubbing,
cyanosis, or edema. Pulses DP/Radial 2+ bilaterally.  
 SKIN: Warm. Cap refill <2s. No rash.  
 NEUROLOGIC: CN2-12 intact. ___ strength throughout. Normal
sensation. Gait is normal. AOx3.  

DISCHARGE PHYSICAL EXAM
============================
VITALS: 24 HR Data (last updated ___ @ 418)
    Temp: 99.9 (Tm 99.9), BP: 112/65 (105-125/63-74), HR: 94
(59-94), RR: 18 (___), O2 sat: 96% (96-99), O2 delivery: RA  
GENERAL: Alert and interactive. In no acute distress.  
HEENT: NCAT. PERRL, EOMI. Sclera anicteric and without 
injection.
MMM. Pharynx without erythema or exudate. No oral lesions.   
LYMOH: No cervical or axillary lymphadenopathy. 
CARDIAC: Regular rhythm, normal rate. Audible S1 and S2. No
murmurs/rubs/gallops.  
LUNGS: Clear to auscultation bilaterally. No wheezes, rhonchi or
rales. No increased work of breathing.  
ABDOMEN: Normal bowels sounds, non distended, non-tender to deep
palpation in all four quadrants. No organomegaly.  
EXTREMITIES: Left forearm with 2 incised abscesses w/ small
amount purulent drainage. Erythema and edema surrounding the
incised areas on the forearm, slightly improved from prior.
Multiple non-tender lymph nodes palpated on left medial upper 
arm
and in the left antecubital fossa, stable from prior, but
erythema on upper arm significantly improved relative to marked
area. No clubbing, cyanosis, or edema. Pulses DP/Radial 2+
bilaterally.  
SKIN: Warm. Mobiliform rash on chest, back and extremities.  
NEUROLOGIC: ___ strength throughout. AOx3.  
 
Pertinent Results:
ADMISSION LABS  
===============  
___ 08:30PM BLOOD WBC-8.1 RBC-4.52* Hgb-13.7 Hct-41.4 
MCV-92 MCH-30.3 MCHC-33.1 RDW-11.9 RDWSD-39.8 Plt ___
___ 08:30PM BLOOD Neuts-59.5 ___ Monos-15.1* 
Eos-2.7 Baso-0.7 Im ___ AbsNeut-4.80 AbsLymp-1.74 
AbsMono-1.22* AbsEos-0.22 AbsBaso-0.06
___ 08:30PM BLOOD Glucose-79 UreaN-15 Creat-1.1 Na-138 
K-4.3 Cl-99 HCO3-26 AnGap-13

DISCHARGE LABS  
===============  

___ 06:40AM BLOOD WBC-6.9 RBC-4.84 Hgb-15.0 Hct-42.5 MCV-88 
MCH-31.0 MCHC-35.3 RDW-11.8 RDWSD-38.0 Plt ___
___ 10:40AM BLOOD Glucose-151* UreaN-12 Creat-1.0 Na-139 
K-4.1 Cl-101 HCO3-20* AnGap-18
___ 10:40AM BLOOD ALT-27 AST-26 AlkPhos-97 TotBili-0.6

MICRO  
=====  
__________________________________________________________
___ 7:11 am BLOOD CULTURE ( MYCO/F LYTIC BOTTLE)

   BLOOD/FUNGAL CULTURE (Pending): 

   BLOOD/AFB CULTURE (Pending): 
__________________________________________________________
___ 6:10 pm MRSA SCREEN      Source: Nasal swab. 

                            **FINAL REPORT ___

   MRSA SCREEN (Final ___:    No MRSA isolated. 
__________________________________________________________
___ 10:48 pm SWAB      Source: Left forearm abscess. 
      FUNGAL CULTURE ADDED ON BY ___ AT 
1712 ON
      ___. 

   GRAM STAIN (Final ___: 
      1+    (<1 per 1000X FIELD):   POLYMORPHONUCLEAR 
LEUKOCYTES. 
      NO MICROORGANISMS SEEN. 

   WOUND CULTURE (Final ___:    NO GROWTH. 

   ANAEROBIC CULTURE (Final ___:    NO GROWTH. 

   FUNGAL CULTURE (Preliminary): 
      NO FUNGUS ISOLATED. 
      A swab is not the optimal specimen for recovery of 
mycobacteria or
      filamentous fungi.  A negative result should be 
interpreted with
      caution.  Whenever possible tissue biopsy or aspirated 
fluid should
      be submitted. 
__________________________________________________________
___ 9:58 pm BLOOD CULTURE      2 OF 2. 

   Blood Culture, Routine (Pending):    No growth to date. 
__________________________________________________________
___ 8:30 pm BLOOD CULTURE

   Blood Culture, Routine (Pending):    No growth to date.

IMAGING  
========  
___ Upper Extremity Ultrasound
IMPRESSION:  
  
Diffuse soft tissue thickening and hyperemia along the ulnar 
aspect of the 
left forearm, consistent with cellulitis.  No organized fluid 
collection is 
demonstrated.  There is diffuse edema with some early fluid 
interdigitating 
between folds of subcutaneous fat. 

 
Brief Hospital Course:
BRIEF HOSPITAL COURSE
========================
___ male with purulent cellulitis c/b abscess and 
lymphangitis s/p multiple I+D with a history of multiple failed 
antibiotics courses with cultures growing A. faecalis and 
non-yet-speciated GPRs who was treated with IV vancomycin and 
Cefepime then transitioned to clindamycin and Bactrim with 
clinical improvement.

TRANSITIONAL ISSUES:
[] Please follow up sporothrix serology.
[] Please follow up GPR culture, which was sent out to ___ from 
___ ___, ___ Order number ___. 
Results expected ___.
[] Please follow up final ___ blood, anaerobic, AFB, and 
fungal cultures. 

Followups: ID clinic
Medications: Patient started on Clindamycin 300 mg qhr and 1 
Bactrim DS BID with plan for 10 day total course (___).

#Purulent Cellulitis with Abscess: 
Patient presented with multiple left forearm abscesses, which 
persisted despite incision and drainage and multiple courses of 
oral antibiotics. Briefly, he first noticed a "pimple" on his 
forearm on ___. He had localized swelling and additional bumps 
tracking up his medial arm to the armpit. He was seen in his 
PCP's office and given Keflex. He subsequently travelled to ME, 
and felt some myalgias and chills during the car ride. Due to 
worsening pain, he went to a clinic in ___ on ___ where the 
bump was found to be an abscess that was I+Ded. While gram stain 
from the abscess had no bacteria, culture from this time grew 
GNR and GPR, one of which was identified as Alcaligenes 
faecalis. He was given PO clindamycin. On ___ he noticed that 
the redness was creeping up his arm and went to an ED, where he 
was given 1 dose of IV clindamycin, 1 dose of IV vancomycin then 
discharged on PO Bactrim (___) in addition to PO 
Clindamycin (___). By ___ his arm was less sore, and by 
___ he noted decreasing redness of his upper arm. However, he 
continued to have symptoms including a painful nodular swelling 
proximal and lateral to his initial I&D. He presented to his PCP 
who sent him to the ED for further evaluation. In the ED, an 
incision and drainage of the new lesion was performed and he was 
started on IV vancomycin. He failed to improve overnight, so he 
was admitted to the floor. He was seen by infectious disease, 
who recommended IV Cefepime 2g q12hr (___) in addition to 
IV Vancomycin 1g q12hr (___) He remained afebrile and 
without complaints during the admission and without a 
leukocytosis. An extremity ultrasound did not identify any 
additional drainable pockets. Wound cultures were negative and 
blood cultures are NGTD. MRSA screen was negative. On ___, he 
was transitioned to clindamycin 300 mg qhr and 1 Bactrim DS BID 
and the arm continued to improve overnight. Serology for 
sporothrix was pending at time of discharge. 

MICROBIOLOGY DATA:
Rangely Family Medicine Abscess Culture ___:
___ - 1+ PMN, no recognizable bacteria seen
Culture - preliminary: 1+ GNR, 3+ GPR; organism 1 identified as
alcaligenes faecalis:
Amikacin S
Aztreonam R
Cefepime S
Ceftazidime S
Ceftriaxone I
Gentamicin R
Imipenem S
Pip/Tazo S
Tobra S
TMP/SMX S

#Morbilliform rash/Itching: Patient reported intermittent 
itchiness in his beard starting on ___, which was relieved with 
PO Benadryl. On ___ the patient developed a morbilliform rash 
across his chest, back and extremities, which was intermittently 
itchy. This was initially accompanied by subjective chills and a 
subtle increase in temperature to 99.9, although these systemic 
symptoms subsequently resolved. Given his exposure to a large 
number of antibiotics, this was felt to most likely represent a 
drug reaction, although it was unclear which drug might be 
implicated. His inpatient antibiotic exposures were as follows: 
Vancomycin from ___ to ___ (last dose just past midnight), 
Cefepime from ___ to ___ (evening), Bactrim and Clindamycin 
started ___ AM. He denied mucosal lesions and remained 
afebrile. His LFTs were normal and he did not have a 
leukocytosis or eosinophilia. Overall, his presentation was felt 
to represent a benign drug rash and he was discharged with 
return precautions and close PCP ___.

CHRONIC ISSUES: 
=============== 
#PREP: He was continued on his home Truvada. An HIV test was 
negative. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Emtricitabine-Tenofovir (Truvada) 1 TAB PO DAILY 

 
Discharge Medications:
1.  Clindamycin 300 mg PO Q6H Duration: 5 Days 
RX *clindamycin HCl 300 mg 1 capsule(s) by mouth every six (6) 
hours Disp #*18 Capsule Refills:*0 
2.  Sarna Lotion 1 Appl TP QID:PRN itching 
RX *camphor-menthol [Anti-Itch (menthol/camphor)] 0.5 %-0.5 % 
ASDIR Up to 4 times daily Disp #*1 Bottle Refills:*0 
3.  Sulfameth/Trimethoprim DS 1 TAB PO BID Duration: 5 Days 
RX *sulfamethoxazole-trimethoprim [Bactrim DS] 800 mg-160 mg 1 
applic by mouth once a day Disp #*4 Tablet Refills:*0 
4.  Emtricitabine-Tenofovir (Truvada) 1 TAB PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY
==========
Purulent Cellulitis 
Abscess 
Lymphangitis
Drug Rash

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was a privilege taking care of you at ___ 
___.  

WHY WAS I ADMITTED TO THE HOSPITAL?
===================================
- You were admitted to the hospital because you had recurrent 
abscesses on your left forearm, which seemed to be spreading up 
your forearm and did not improve after your initial incision and 
drainage and oral antibiotic trials.

WHAT HAPPENED WHILE I WAS IN THE HOSPITAL?
==========================================
- You received IV antibiotics, including Vancomycin and Cefepime 
and another drainage of your abscess was performed.
- You were seen by infectious disease specialists who helped us 
figure out the best possible regimen of oral antibiotics to give 
you when you left the hospital.  
- You developed a rash, which we think was a side effect of one 
of your antibiotics. This is not dangerous, but you can use 
Sarna cream to sooth the rash and Benadryl for itchiness.  

WHAT SHOULD I DO AFTER I LEAVE THE HOSPITAL?
============================================  
- Please continue to take all your medications and follow up 
with your doctors at your ___ appointments. 
- Please continue to take your antibiotics (clindamycin and 
Bactrim DS) until ___.
- Please have your dressings and abscess packing changed every 
other day. The abscess cavity should be packed with 
progressively less material as it heals. 

We wish you all the best!

Sincerely,  
Your ___ Care Team  

 
Followup Instructions:
___